US05998424
1-(4-Methoxyphenyl)-3-(methoxymethyl)-1H-pyrazole-5-carboxylic acid
Ethyl 3-(bromomethyl)-1-(4-methoxyphenyl)-1H-pyrazole-5-carboxylate (0.50 g, 1.47 mmol) is dissolved in 12 mL of 0.5 M NaOMe in methanol and heated to reflux for 14 hours. The reaction mixture was cooled and reduced to 1/10 original volume. The reaction mixture was dissolved in 20 mL of water and extracted with EtOAc. The aqueous mixture was acidified with 1N HCl and extracted with EtOAc to give 0.236 g (61%) of desired product. A mixture of ethyl and methyl esters (~0.05 g) was found in the first EtOAc extract. 1H NMR (CDCl3): δ7.32 (d, J=8.8, 2H); 7.11 (s, 1H); 6.94 (d, J=8.8, 2H); 4.54 (s, 2H); 3.85 (s, 3H); 3.44 (s, 3H).

reactant | Ethyl 3-(bromomethyl)-1-(4-methoxyphenyl)-1H-pyrazole-5-carboxylate | 1.47 mmol, 0.50 g | BrCC1=NN(C(=C1)C(=O)OCC)C1=CC=C(C=C1)OC | C14H15BrN2O3
reactant | NaOMe | 0.5 M, 12 mL | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 1-(4-Methoxyphenyl)-3-(methoxymethyl)-1H-pyrazole-5-carboxylic acid | 0.236 g, 61% | COC1=CC=C(C=C1)N1N=C(C=C1C(=O)O)COC | C13H14N2O4
